US05367079
Trimethyl orthoformate (2 ml) was added to montmorillonite clay (1.3 g) and the mixture was shaken for 5 minutes and then filtered. The solid so obtained was added to a solution of 3-(3-benzyloxyphenyl)cyclohexanone (0.28 g) in carbon tetrachloride (4 ml) and the resultant mixture was stirred at ambient temperature for 20 hours. The mixture was basified by the addition of sodium bicarbonate (0.05 g) and filtered. The filtrate was evaporated to give 3-(3-benzyloxyphenyl)-1,1-dimethoxycyclohexane as an oil (0.326 g) which was used without further purification.

reactant | Trimethyl orthoformate | 2 ml | C(OC)(OC)OC | C4H10O3
reactant | 3-(3-benzyloxyphenyl)cyclohexanone | 0.28 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(CCC1)=O | C19H20O2
reactant | sodium bicarbonate | 0.05 g | C([O-])(O)=O.[Na+]
solvent | carbon tetrachloride | 4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(3-benzyloxyphenyl)-1,1-dimethoxycyclohexane | 0.326 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1CC(CCC1)(OC)OC | C21H26O3
